US07183270B2
N-[(3S)-1-((1S,2R,4R)-2-Benzenesulfonylmethyl-4-isopropylamino-cyclohexyl)-2-oxo-pyrrolidin-3-yl]-3-trifluoromethyl-benzamide
{(3S)-1-[(1S,2R,4R)-4-Azido-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (240 mg), see example 18, was dissolved in CH2Cl2 (5 mL) prior to the addition of TFA (2.5 mL). After 30 min, it was concentrated and dried. The resulting residue was dissolved in DMF prior to the addition of 4-methylmorpholine (0.25 mL) and 3-trifluoromethyl-benzoic acid (104.5 mg). BOP Reagent (64 mg) was added and the mixture was stirred for 40 min. After concentration, EtOAc was added along with 1N HCl solution. The EtOAc layer was washed with NaHCO3 solution (aq) and brine, dried (MgSO4), filtered, and concentrated. This material was passed through a plug of silica and concentrated. The resulting material (178 mg) was dissolved in MeOH (5 mL) prior to the addition of 20% Pd(OH)2 (100 mg). A hydrogen balloon was added and the mixture was stirred. After stirring overnight, the palladium was filtered off and the solvent was concentrated. A portion of this material (68 mg) was dissolved in dichloroethane (2.5 mL) prior to the adddition of acetone (0.04 mL) and NaBH(OAc)3 (64 mg). After 40 min, the solution was concentrated. The resulting residue was dissolved in EtOAc and washed with saturated NaHCO3. The organic layer was dried, filtered, and concentrated. Reverse phase HPLC purification (gradient elution, water/acetonitrile/TFA) of the resulting residue provided the title compound (66 mg). MS found: (M+H)+=566.4.

reactant | {(3S)-1-[(1S,2R,4R)-4-Azido-2-(4-methylsulfanyl-benzenesulfonylmethyl)-cyclohexyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 240 mg | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N=[N+]=[N-])CS(=O)(=O)C1=CC=C(C=C1)SC)=O)=O | C23H33N5O5S2
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[(3S)-1-((1S,2R,4R)-2-Benzenesulfonylmethyl-4-isopropylamino-cyclohexyl)-2-oxo-pyrrolidin-3-yl]-3-trifluoromethyl-benzamide | 66 mg | C1(=CC=CC=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)NC(C)C)N1C([C@H](CC1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C28H34F3N3O4S
